US05677470
Under argon atmosphere, a solution of methyl (2S,3R)-2,3-dihydroxy-3-(4-fluorophenyl)propionate (3.95 g, 18.4 mmol) dissolved in dichloromethane (100 ml) was cooled to -3° to -5° C., and triethylamine (3.86 ml, 27.7 mmol) and p-toluenesulfonyl chloride (3.62 g, 19.0 mmol) were added to the solution. After the mixture was stirred at -3° to -5° C. for 44 hours, the reaction mixture was washed with water and brine. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed, and the residue obtained was purified by silica gel flash column chromatography (ethyl acetate/hexane=1/2) to obtain methyl (2S,3R)-3-(4-fluorophenyl)-3-hydroxy-2-p-toluenesulfonyloxypropionate (5.64 g, yield: 83%).

reactant | methyl (2S,3R)-2,3-dihydroxy-3-(4-fluorophenyl)propionate | 18.4 mmol, 3.95 g | O[C@H](C(=O)OC)[C@@H](C1=CC=C(C=C1)F)O | C10H11FO4
reactant | triethylamine | 27.7 mmol, 3.86 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 19.0 mmol, 3.62 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl (2S,3R)-3-(4-fluorophenyl)-3-hydroxy-2-p-toluenesulfonyloxypropionate | 5.64 g, yield: 83% | FC1=CC=C(C=C1)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C17H17FO6S
